US07829572B2
Preparation 1d: 5-Iodo-2-(2-methoxy-phenyl)-3-phenethyl-3H-pyrido[4,3-d]pyrimidin-4-one
A mixture of 5-chloro-2-(2-methoxy-phenyl)-3-phenethyl-3H-pyrido[4,3-d]pyrimidin-4-one (300 mg, 0.766 mmol), trimethylsilyl chloride (0.097 mL, 0.766 mmol) and sodium iodide (344 mg, 2.297 mmol, 3 equiv.) in propionitrile (7.66 mL) was heated to reflux under nitrogen in the dark for 4 hours. TLC showed no starting material remaining. The reaction mixture was cooled to ambient temperature and poured into 1N NaOH (30 mL). The resulting suspension was extracted with ethyl acetate (3×20 mL), the combined extracts were washed with water, brine and dried, filtered and concentrated in vacuo to give a brown oil. The crude product was purified by column chromatography using 10% ethyl acetate in dichloromethane to provide 235 mg (64%) of product.

reactant | 5-chloro-2-(2-methoxy-phenyl)-3-phenethyl-3H-pyrido[4,3-d]pyrimidin-4-one | 0.766 mmol, 300 mg | ClC1=NC=CC=2N=C(N(C(C21)=O)CCC2=CC=CC=C2)C2=C(C=CC=C2)OC | C22H18ClN3O2
reactant | trimethylsilyl chloride | 0.766 mmol, 0.097 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | sodium iodide | 2.297 mmol, 344 mg, 3 equiv. | [I-].[Na+]
reactant | NaOH | 1N, 30 mL | [OH-].[Na+]
solvent | propionitrile | 7.66 mL | C(CC)#N | C3H5N
product | 5-Iodo-2-(2-methoxy-phenyl)-3-phenethyl-3H-pyrido[4,3-d]pyrimidin-4-one | 235 mg, 64% | IC1=NC=CC=2N=C(N(C(C21)=O)CCC2=CC=CC=C2)C2=C(C=CC=C2)OC | C22H18IN3O2
